US04946856
1-(4-Chlorobenzoyl)-4-ethylsemicarbazide
A stirred suspension of 4-chlorobenzoic acid, hydrazide (17.1 g, 1.00×10-1 mole), and THF (425 ml) was warmed until homogeneous, at which time ethyl isocyanate (8.7 ml, 1.1× 0-1 mole) was added via syringe. A precipitate soon formed. After stirring overnight the reaction was diluted with Et2O and the precipitate was collected by filtration affording a colorless powder: 23.7 g (98%). Crystallization from ethanol gave a colorless solid: 21.4 g (88%), mp 237°-239°.

reactant | 4-chlorobenzoic acid, hydrazide | 1.00×10-1 mole, 17.1 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | THF | 425 ml | C1CCOC1 | C4H8O
reactant | ethyl isocyanate | 0-1 mole, 8.7 ml | C(C)N=C=O | C3H5NO
solvent | Et2O | CCOCC | C4H10O
product | 1-(4-Chlorobenzoyl)-4-ethylsemicarbazide | ClC1=CC=C(C(=O)NNC(=O)NCC)C=C1 | C10H12ClN3O2
